US08871755B2
Methyl 4-{[4-(3,5-difluorophenyl)-5-(3,4-dimethylphenyl)-5-oxopentyl]thio}benzoate
A sample of 2-(3,5-difluorophenyl)-1-(3,4-dimethylphenyl)ethanone [CAS 1450736-61-4] (5.0 g, 19.2 mmole) was dissolved in THF and cooled to −78° C. Lithium diisopropyl amide (10.6 mL, 1.1 eq.) was added dropwise and the resulting mixture was stirred for 30 minutes. A solution of methyl 4-[(3-bromopropyl)thio]benzoate [CAS 134520-57-3] (6.1 g, 1.1 eq) in THF was then added dropwise and the reaction mixture was allowed to stir overnight. It was then refluxed at 90° C. overnight. The reaction mixture was cooled to room temperature, then to 0° C. after which it was quenched with 1M HCl to pH 2. The resulting mixture was extracted with EtOAc (3×100 mL) and the combined organic layers were washed with saturated NaCl, dried with MgSO4, filtered, concentrated and purified by MPLC to give 4.28 g (48%) of Intermediate

reactant | 2-(3,5-difluorophenyl)-1-(3,4-dimethylphenyl)ethanone | 19.2 mmole, 5.0 g | FC=1C=C(C=C(C1)F)CC(=O)C1=CC(=C(C=C1)C)C | C16H14F2O
reactant | Lithium diisopropyl amide | 10.6 mL, 1.1 eq. | C(C)(C)[N-]C(C)C.[Li+]
reactant | methyl 4-[(3-bromopropyl)thio]benzoate | 6.1 g, 1.1 eq | BrCCCSC1=CC=C(C(=O)OC)C=C1 | C11H13BrO2S
solvent | THF | C1CCOC1 | C4H8O
product | Methyl 4-{[4-(3,5-difluorophenyl)-5-(3,4-dimethylphenyl)-5-oxopentyl]thio}benzoate | 4.28 g, 48% | FC=1C=C(C=C(C1)F)C(CCCSC1=CC=C(C(=O)OC)C=C1)C(=O)C1=CC(=C(C=C1)C)C | C27H26F2O3S
